data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3341,3790,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[CH-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:11]([C:9]([O:8][CH3:7])=[O:10])[NH:12][C:13]1([C:14]#[N:15])[C:16]#[N:17],water,298.15,20.29181851327652,-14.120150784120629
4236,4846,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([CH3:21])[CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:20]([CH3:21])([CH3:22])[N:18]([CH3:19])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,32.49585729397705,6.461626685655933
2151,2386,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[O:15][C:14]3([C:12]([NH:11][CH3:10])=[O:13])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,11.377277802621414,-63.7983071749288
719,780,[CH3:16][CH:17]=[NH+:18][C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:19]([C:20]#[N:21])([C:22]#[N:23])[NH:18][CH:17]2[CH3:16],water,298.15,13.042631751398876,-13.255874330792649
2178,2416,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[NH:19][N:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,26.484240128827945,-12.425525373954954
560,613,[CH3:13][N-:14][O+:15]=[CH:16][C:17](=[O:18])[O:19][CH3:20].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[N:14]([CH3:13])[O:15][CH:16]3[C:17](=[O:18])[O:19][CH3:20],water,298.15,13.747274186178268,-70.55309952373504
1302,1428,[CH3:16][C:17](=[O:18])[C:19]#[N+:20][C-:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:19]([C:17]([CH3:16])=[O:18])=[N:20][C:21]2([C:22]#[N:23])[C:24]([CH3:25])=[O:26],water,298.15,16.298593900636106,-49.31876594289095
1332,1461,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][N-:20][C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[N:20]([C:21]#[N:22])[NH:19][C:18]3([C:16]([NH:15][CH3:14])=[O:17])[C:23](=[O:24])[O:25][CH3:26],water,298.15,18.993681656204647,-28.35756072428517
2394,2659,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[NH+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([C:10]([CH3:11])=[O:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[NH:22][C:23]2([CH3:24])[C:25]([CH3:26])=[O:27],water,298.15,22.264870827972388,-36.16595186278357
2585,2866,[CH3:16][NH:17][C:18](=[O:19])[c:20]1[o:21][c:22](=[O:23])[c-:24](-[c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[n+:31]1[CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]([Br:6])=[C:7]([C:8](=[O:9])[O:10][CH3:11])[C:12](=[O:13])[O:14][CH3:15]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]([C:8](=[O:9])[O:10][CH3:11])([C:12](=[O:13])[O:14][CH3:15])[C:24]2([c:25]3[cH:26][cH:27][cH:28][cH:29][cH:30]3)[C:22](=[O:23])[O:21][C:20]1([C:18]([NH:17][CH3:16])=[O:19])[N:31]2[CH3:32],water,298.15,19.51484731573344,13.008168142266008
